US05990101
Under an argon atmosphere, 0.68 ml of allyl alcohol was added dropwise to a dry dichloromethane solution containing 0.87 ml of chlorosulfonyl isocyanate at -43° C. with stirring, and the mixture was then stirred at -43 to -37° C. for 30 minutes. This mixed solution was added dropwise to 50 ml of a dry dichloromethane solution containing 766 mg of 3-aminomethylimidazo[5,1-b]thiazole and 1.40 ml of triethylamine at -60° C. under an argon atmosphere, followed by stirring at the same temperature for 1.5 hours. After the addition of distilled water, the solution was adjusted to pH 6.0 with a 15% aqueous potassium carbonate solution and 2N hydrochloric acid, and after salting-out, extraction was carried out five times with ethyl acetate. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The resulting residue was separated by a silica gel column chromatograph, and then recrystallized from ethanol-diethyl ether to obtain 1135 mg of 3-[(N-allyloxycarbonylamino)sulfonyl]aminomethylimidazo[5,1-b]thiazole as a milky white powder.

reactant | allyl alcohol | 0.68 ml | C(C=C)O | C3H6O
reactant | chlorosulfonyl isocyanate | 0.87 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-aminomethylimidazo[5,1-b]thiazole | 766 mg | NCC=1N2C(SC1)=CN=C2 | C6H7N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[(N-allyloxycarbonylamino)sulfonyl]aminomethylimidazo[5,1-b]thiazole | 1135 mg | C(C=C)OC(=O)NS(=O)(=O)NCC=1N2C(SC1)=CN=C2 | C10H12N4O4S2
